US04673740
When the reaction conditions of Example 1 are employed but 11.6 g of 4-fluoroanthranilic acid and 14.4 g of p-trifluoromethylbenzoyl fluoride are used, 21.1 g (91%) of 7-fluoro-2-(p-trifluoromethylphenyl)-4H-3,1-benzoxazin-4-one of melting point 137°-139° C. are obtained.

reactant | 4-fluoroanthranilic acid | 11.6 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
reactant | p-trifluoromethylbenzoyl fluoride | 14.4 g | FC(C1=CC=C(C(=O)F)C=C1)(F)F | C8H4F4O
product | 7-fluoro-2-(p-trifluoromethylphenyl)-4H-3,1-benzoxazin-4-one | 21.1 g, 91% | FC1=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C15H7F4NO2
